US08372842B2
A 50 mL round bottom flask charged with tert-butyl 4-(5-cyclopropyl-3-iodo-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate (500 mg, 0.85 mmol), triethylamine (355 μL, 2.54 mmol), Pd2dba3 (19.4 mg, 0.021 mmol), tri-o-tolylphosphine (19.4 mg, 0.064 mmol), and DMF (7 mL) was purged under N2 (3 cycles). 3-vinylpyridine (270.24 mg, 1.7 mmol) was added, and the mixture was stirred at 100° C. under a N2 atmosphere for 6 hours. The reaction mixture was cooled to room temperature, diluted with warm EtOAc (100 mL) and washed with water (2×30 mL). The phases were separated, and the organic layer was dried (MgSO4), filtered, and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (Biotage Flash 40S+) eluting with 25% EtOAc/hexane followed by 50% EtOAc/hexane to provide (E)-tert-butyl 4-(5-cyclopropyl-1-(4-methoxybenzyl)-3-(2-(pyridin-3-yl)vinyl)-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate (390 mg, 81% yield) as a solid. LCMS (APCI+) m/z 567.3 (M+H)+.

reactant | tert-butyl 4-(5-cyclopropyl-3-iodo-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate | 0.85 mmol, 500 mg | C1(CC1)C=1C(=C2C(=NC1)N(N=C2I)CC2=CC=C(C=C2)OC)N2CCN(CC2)C(=O)OC(C)(C)C | C26H32IN5O3
reactant | triethylamine | 2.54 mmol, 355 μL | C(C)N(CC)CC | C6H15N
reactant | DMF | 7 mL | CN(C)C=O | C3H7NO
reactant | 3-vinylpyridine | 1.7 mmol, 270.24 mg | C(=C)C=1C=NC=CC1 | C7H7N
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
catalyst | Pd2dba3 | 0.021 mmol, 19.4 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | tri-o-tolylphosphine | 0.064 mmol, 19.4 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
product | (E)-tert-butyl 4-(5-cyclopropyl-1-(4-methoxybenzyl)-3-(2-(pyridin-3-yl)vinyl)-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate | 390 mg, 81% yield | C1(CC1)C=1C(=C2C(=NC1)N(N=C2\C=C\C=2C=NC=CC2)CC2=CC=C(C=C2)OC)N2CCN(CC2)C(=O)OC(C)(C)C | C33H38N6O3
